US05102893
Preparation of trans-3-[5-(4-fluorophenyl)-3-(1-methylethl)-1-(2-quinolinyl)-1H-pyrazol-4-yl]-2-propenoic acid, ethyl ester
Ethyl acrylate (4.9 mL, 45 mmoles) and bis-triphenyl phosphine palladium (II) chloride (0.25 g, 0.36 mmoles) were suspended in a 1:1 mixture of triethyl amine and DMF. This mixture was heated to reflux under an atmosphere of N2. When the suspension had completely dissolved, 2-[4-bromo-5-(4-fluorophenyl)-3-(1-methylethyl)-1H-pyrazol-1-yl]quinoline (3.70 g, 9.0 mmoles) was carefully added. The resulting yellow solution was refluxed for 16 hours, then cooled and partitioned between H2O and Et2O. The ether layer was dried over MgSO4, filtered, and evaporated to give a yellow solid which was recrystallized from hexanes to give 3.36 g (87%) of the title compound as a tan solid, mp 140°-143° C.

reactant | Ethyl acrylate | 45 mmoles, 4.9 mL | C(C=C)(=O)OCC | C5H8O2
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
reactant | 2-[4-bromo-5-(4-fluorophenyl)-3-(1-methylethyl)-1H-pyrazol-1-yl]quinoline | 9.0 mmoles, 3.70 g | BrC=1C(=NN(C1C1=CC=C(C=C1)F)C1=NC2=CC=CC=C2C=C1)C(C)C | C21H17BrFN3
solvent | DMF | CN(C)C=O | C3H7NO
product | trans-3-[5-(4-fluorophenyl)-3-(1-methylethl)-1-(2-quinolinyl)-1H-pyrazol-4-yl]-2-propenoic acid, ethyl ester | 3.36 g, 87% | FC1=CC=C(C=C1)C1=C(C(=NN1C1=NC2=CC=CC=C2C=C1)C(C)C)/C=C/C(=O)OCC | C26H24FN3O2
